US05391737
To a solution of 10 ml of ethylene glycol in 0.5 ml (0.005 moles) of cc. hydrochloric acid, warmed to 120° C., 0.28 g (0.001 mole) of (2-cyanoimino-5,6-dichloro-1,2,3,4-tetrahydroquinazolin-3-yl) acetonitrile are added, and the solution is stirred at the same temperature for 20 minutes. Then it is cooled to room temperature and made neutral with 10% potassium carbonate solution. The separated crystals are filtered off. Thus 0.27 g (96.4%) of crude 6,7-dichloro-1, 5-dihydroimidazo[2,1-b]quinazolin-2[3H]-one base are obtained (m.p.>300° C., HPLC content: 96.3%), which is dissolved in a hot mixture of 7 ml of methanol and 6 ml of cc. ethanolic hydrogen chloride (hydrogen chloride content: 0.76 moles/1000 ml) and allowed to crystallize. Then it is cooled, the separated product is filtered off and washed with a slight amount of ethanol.

reactant | hydrochloric acid | Cl | ClH
reactant | (2-cyanoimino-5,6-dichloro-1,2,3,4-tetrahydroquinazolin-3-yl) acetonitrile | 0.001 mole, 0.28 g | C(#N)N=C1NC2=CC=C(C(=C2CN1CC#N)Cl)Cl | C11H7Cl2N5
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethylene glycol | 10 ml | C(CO)O | C2H6O2
product | 6,7-dichloro-1, 5-dihydroimidazo[2,1-b]quinazolin-2[3H]-one | 0.27 g, 96.4% | ClC1=C2CN3C(=NC2=CC=C1Cl)NC(C3)=O | C10H7Cl2N3O
